US07632682B2
To a 1 L glass reaction vessel equipped with a mechanical stirrer, temperature probe, water-cooled condenser, and a gas inlet tube was added 2-[2-(3-aminopropoxy)ethoxy]ethanol (291 g), leucoquinizarin (52 g), and quinizarin (152 g). The reaction mixture was heated under a nitrogen atmosphere to 70° C., at which time agitation was started. The reaction mixture was then heated to 80° C. After heating at that temperature for 4 hours, a gentle stream of air was introduced into the reaction mixture and heating at 80° C. was continued with the air sparge in order to oxidize the reaction mixture. After heating an additional 5 hours, the oxidation was complete. The reaction mixture was then cooled to room temperature to produce a blue anthraquinone colorant having a maximum absorbance at 639 nanometers and a color value of 31.5 (absorbance/g/L in methanol). The colorant contained 0.2% 1-(3-(2-(2-hydroxyethoxy)ethoxy)propylamino-4-hydroxyanthraquinone (i.e. violet impurity) and 0.7% of water and methanol insoluble black impurity. The structure of the anthraquinone colorant is shown below:

reactant | 2-[2-(3-aminopropoxy)ethoxy]ethanol | 291 g | NCCCOCCOCCO | C7H17NO3
reactant | leucoquinizarin | 52 g | C1CC(=O)C2=C(C3=CC=CC=C3C(=C2C1=O)O)O | C14H10O4
reactant | quinizarin | 152 g | C=1C=CC2=C(C1)C(=O)C3=C(C=CC(=C3C2=O)O)O | C14H8O4
solvent | water | O | H2O
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
